US05681838
(2-(4-(4-(Aminoiminomethyl)benzyl)-2,5-dioxoimidazolidin-1-yl)ethyl)-(9-fluorenylmethoxycarbonyl)aminoacetic acid hydrochloride
1.2 g (1.88 mmol) of (2-(4-(4-(aminoiminomethyl)benzyl)-2,5-dioxoimidazolidin-1-yl)ethyl)-(9-fluorenylmethoxycarbonyl)aminoacetic acid are heated at 90° C. for 20 minutes together with 24 ml of 10% strength hydrochloric acid and 24 ml of acetic acid. Following concentration, chromatography takes place, for purification, on Sephadex LH20 using methanol.

reactant | (2-(4-(4-(aminoiminomethyl)benzyl)-2,5-dioxoimidazolidin-1-yl)ethyl)-(9-fluorenylmethoxycarbonyl)aminoacetic acid | 1.88 mmol, 1.2 g | NN=CC1=CC=C(CC2NC(N(C2=O)CCC(C(=O)O)NC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)=O)C=C1 | C30H29N5O6
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | (2-(4-(4-(Aminoiminomethyl)benzyl)-2,5-dioxoimidazolidin-1-yl)ethyl)-(9-fluorenylmethoxycarbonyl)aminoacetic acid hydrochloride | Cl.NN=CC1=CC=C(CC2NC(N(C2=O)CCC(C(=O)O)NC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)=O)C=C1 | InChI=1S/C30H29N5O6.ClH/c31-32-16-19-11-9-18(10-12-19)15-26-27(36)35(29(39)33-26)14-13-25(28(37)38)34-30(40)41-17-24-22-7-3-1-5-20(22)21-6-2-4-8-23(21)24;/h1-12,16,24-26H,13-15,17,31H2,(H,33,39)(H,34,40)(H,37,38);1H
